US05610161
A mixture of 5-(4-methoxyphenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride (1.0 g), glacial acetic acid (20 ml) and hydrobromic acid (48%, 20 ml) was heated under reflux for 6.5 hours then allowed to cool. The mixture was neutralised by the addition of saturated aqueous sodium hydrogen carbonate solution and the product extracted into ether (3×100 ml). The extracts were combined, dried over magnesium sulphate and the solvent removed in vacuo to give a solid which was purified via flash chromatography over silica using toluene/triethylamine (4:1) as eluent. Appropriate fractions were combined, the solvents were removed in vacuo, and the resulting product was dissolved in ether. The solution was filtered, and the filtrate cooled in ice and saturated with hydrogen chloride. The resulting solid was collected by filtration, washed with ether and dried in vacuo at ambient temperature to give 5-(4-hydroxyphenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride as a white solid. Yield 0.7 g, mp 285°-295° C.

reactant | 5-(4-methoxyphenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride | 1.0 g | Cl.COC1=CC=C(C=C1)C1=CCCNC12CCCCC2
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-(4-hydroxyphenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride | Cl.OC1=CC=C(C=C1)C1=CCCNC12CCCCC2 | InChI=1S/C16H21NO.ClH/c18-14-8-6-13(7-9-14)15-5-4-12-17-16(15)10-2-1-3-11-16;/h5-9,17-18H,1-4,10-12H2;1H
